US04558047
[R-(R*, R*)]-α-(1-Formyl-2-hydroxyethoxy)-4-carbamoyl-2-1,3-thiazoleacetaldehyde (1.10 g) was dissolved in water (30 ml). To the solution was added 2-aminopyrimidine (0.41 g). The mixture was stirred at ambient temperature for five hours to give a clear solution. The solution was lyophilized to give 2-[(2R, 6R)-3,5-dihydroxy-6-hydroxymethyl-4-(2-pyrimidinyl)morpholin-2-yl]-4-carbamoylthiazole (1.50 g).

reactant | α-(1-Formyl-2-hydroxyethoxy)-4-carbamoyl-2-1,3-thiazoleacetaldehyde | 1.10 g | C(=O)C(CO)OC(C=O)C=1SC=C(N1)C(N)=O | C9H10N2O5S
reactant | 2-aminopyrimidine | 0.41 g | NC1=NC=CC=N1 | C4H5N3
solvent | water | 30 ml | O | H2O
product | 2-[(2R, 6R)-3,5-dihydroxy-6-hydroxymethyl-4-(2-pyrimidinyl)morpholin-2-yl]-4-carbamoylthiazole | 1.50 g | OC1N(C([C@H](O[C@H]1C=1SC=C(N1)C(N)=O)CO)O)C1=NC=CC=N1 | C13H15N5O5S
